US07538123B2
1.41 g of AD-mix-α and 93 mg of methanesulfonamide were dissolved in 12 ml of t-butanol-water (1:1). Thereafter, 195 mg of 6-methoxy-7-(1-propenyl)quinoline was added to the reaction solution, and the obtained mixture was then stirred overnight. Thereafter, 2.0 g of sodium sulfite was added to the reaction solution while cooling on ice, and the obtained mixture was stirred at room temperature for 30 minutes. Thereafter, a saturated sodium chloride aqueous solution was added to the reaction solution, followed by extraction of methylene chloride. The extract was then washed with a 2 N potassium hydroxide aqueous solution. The organic layer was dried over magnesium sulfate and then concentrated under a reduced pressure, so as to obtain 236 mg of 1-(6-methoxyquinolin-7-yl)propane-1,2-diol. This compound was used in the following reaction, without further purification.

reactant | AD-mix-α | 1.41 g | CC[C@@H]1CN2CC[C@@H]1C[C@@H]2[C@@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | methanesulfonamide | 93 mg | CS(=O)(=O)N | CH5NO2S
reactant | 6-methoxy-7-(1-propenyl)quinoline | 195 mg | COC=1C=C2C=CC=NC2=CC1C=CC | C13H13NO
reactant | sodium sulfite | 2.0 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | t-butanol water | 12 ml | C(C)(C)(C)O.O
product | 1-(6-methoxyquinolin-7-yl)propane-1,2-diol | 236 mg | COC=1C=C2C=CC=NC2=CC1C(C(C)O)O | C13H15NO3
